US06909001B2
General Procedure for the O-Alkylation of Phenol 2,4-diamino-9-hydroxy-5H-chromeno[2,3-b]pyridine-3-carbonitrile:
A solution of 2,4-diamino-9-hydroxy-5H-chromeno[2,3-b]pyridine-3-carbonitrile (0.73 mmol), and powdered sodium hydroxide (117 mg, 2.93 mmol)) in dimethyl sulfoxide (4 mL) is heated to 50° C. for five minutes. The corresponding halide is added and the reaction mixture is stirred at 50° C. or 75° C. until completion. The mixture is quenched with saturated aqueous ammonium chloride and directly purified by purified by reverse phase chromatography.

reactant | 2,4-diamino-9-hydroxy-5H-chromeno[2,3-b]pyridine-3-carbonitrile | 0.73 mmol | NC1=C(C(=C2C(=N1)OC1=C(C=CC=C1C2)O)N)C#N | C13H10N4O2
reactant | sodium hydroxide | 2.93 mmol, 117 mg | [OH-].[Na+]
solvent | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
product | Phenol 2,4-diamino-9-hydroxy-5H-chromeno[2,3-b]pyridine-3-carbonitrile | NC1=C(C(=C2C(=N1)OC1=C(C=CC=C1C2)O)N)C#N.C2(=CC=CC=C2)O | InChI=1S/C13H10N4O2.C6H6O/c14-5-8-10(15)7-4-6-2-1-3-9(18)11(6)19-13(7)17-12(8)16;7-6-4-2-1-3-5-6/h1-3,18H,4H2,(H4,15,16,17);1-5,7H
